US05618687
combining in a reaction vessel cephalosporin C, catalase, D-amino acid oxidase obtained from T. variabilis strain ATCC 20931, externally supplied oxygen, and deacylase obtained from Acinetobacter sp. strain ATCC 53891 under conditions sufficient to produce 7-amino cephalosporanic acid; and

reactant | cephalosporin C | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
reactant | oxygen | O=O | O2
product | 7-amino cephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
